US09403805B2
A mixture of (2S,4R)-4-tert-butoxy-2-(2,2-dimethoxy-ethylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (1.8 g, 4.41 mmol) and HCl (1M, 30 mL) in acetone (30 mL) was stirred at room temp. for 8 h. The reaction mixture was then extracted with ethyl acetate and washed with water and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated to give (2S,4R)-4-tert-butoxy-2-(2-oxo-ethylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (1.4 g, crude) as a sticky liquid. The compound was used in the next step without further purification. MS calcd. for Cl9H27N2O5 [(M+H)+] 363.0, obsd. 363.2.

reactant | (2S,4R)-4-tert-butoxy-2-(2,2-dimethoxy-ethylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 4.41 mmol, 1.8 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(NCC(OC)OC)=O | C21H32N2O6
reactant | HCl | 1M, 30 mL | Cl | ClH
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | (2S,4R)-4-tert-butoxy-2-(2-oxo-ethylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 1.4 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(NCC=O)=O | C19H26N2O5
